US04584293
(b) 1-Amino-3-[N-methyl-N-(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane
First, 2-[N-methyl-N-(2-cyano-ethyl)-amino]-7-methoxy-1,2,3,4-tetrahydronaphthalene (6.7 g, 0.0274 mol) is dissolved in methanol (80 ml) saturated with ammonia at 20° C., then Raney nickel (0.8 g) is added and the mixture is hydrogenated at 50° C. under hydrogen pressure (5 bar) for 3 hours. The catalyst is filtered off and the filtrate is evaporated by rotary evaporation. Yield: 5.4 g. Rf value: 0.25 (alumina, eluant: 95 parts by volume of methylene chloride+5 parts by volume of ethanol).

reactant | 2-[N-methyl-N-(2-cyano-ethyl)-amino]-7-methoxy-1,2,3,4-tetrahydronaphthalene | 0.0274 mol, 6.7 g | CN(CCC#N)C1CC2=CC(=CC=C2CC1)OC | C15H20N2O
solvent | methanol | 80 ml | CO | CH4O
solvent | ammonia | N | H3N
catalyst | Raney nickel | 0.8 g | [Ni] | Ni
product | 1-Amino-3-[N-methyl-N-(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | NCCCN(C1CC2=CC(=CC=C2CC1)OC)C | C15H24N2O
